US04376202
Synthesis of 4-(6-chloro-2-quinoxalylthio)-aniline of the following formula:
5.7 g (0.045 mol) of p-aminothiophenol together with 3 g (0.045 mol) of 86% potassium hydroxide and 2 ml of water in 80 ml of dimethylsulfoxide was heated under stirring at 80°-90° C. for 5 hours to make the potassium p-aminothiophenolate. The water generated was removed off by azeotropic distillation under reduced pressure. To this solution which was allowed to be cooled to room temperature was added a solution of 9 g (0.045 mol) of 2,6-dichloroquinoxaline dissolved in 100 ml of dimethylsulfoxide. The mixture was subjected to the reaction, while stirring, at 80°-90° C. for 8 hours. After the reaction mixture was cooled to the room temperature, it was poured into a great deal of water and stirred. The precipitating solid was filtered off, washed with 5% aqueous solution of sodium hydroxide and then washed with water, followed by drying. The crude crystals thus obtained were recrystallized from a mixed solution of ethanol-benzene to produce 6.7 g (yield 52%) of the intended compound (Compound No. 10) as light-yellow crystals, m.p. 144°-147° C.

reactant | p-aminothiophenol | 0.045 mol, 5.7 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | potassium hydroxide | 0.045 mol, 3 g | [OH-].[K+]
reactant | potassium p-aminothiophenolate | NC1=CC=C(C=C1)[S-].[K+]
reactant | 2,6-dichloroquinoxaline | 0.045 mol, 9 g | ClC1=NC2=CC=C(C=C2N=C1)Cl | C8H4Cl2N2
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | water | 2 ml | O | H2O
product | 4-(6-chloro-2-quinoxalylthio)-aniline | 6.7 g, yield 52% | ClC=1C=C2N=CC(=NC2=CC1)SC1=CC=C(N)C=C1 | C14H10ClN3S
